US09260414B2
To a solution of ((S)-1-{(S)-2-[4-(4′-amino-5′-chloro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (50 mg, 0.09 mmol; Preparation 52) dissolved in DCM (0.3 mL) was slowly added a solution of 2-fluoropyridine-5-carbonyl chloride (14 mg, 0.091 mmol) dissolved in DCM (0.3 mL). The reaction mixture was stirred at RT for 5 min and concentrated to produce {(S)-1-[(S)-2-(4-{5′-chloro-4′-[(6-fluoro-pyridine-3-carbonyl)-amino]-2′-trifluoromethyl-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester as a yellow solid.

reactant | ((S)-1-{(S)-2-[4-(4′-amino-5′-chloro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.09 mmol, 50 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)N)C(F)(F)F)=O | C27H29ClF3N5O3
reactant | 2-fluoropyridine-5-carbonyl chloride | 0.091 mmol, 14 mg | FC1=NC=C(C=C1)C(=O)Cl | C6H3ClFNO
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
product | {(S)-1-[(S)-2-(4-{5′-chloro-4′-[(6-fluoro-pyridine-3-carbonyl)-amino]-2′-trifluoromethyl-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)NC(=O)C=1C=NC(=CC1)F)C(F)(F)F)=O | C33H31ClF4N6O4
